US04556666
9.9 g of tert.-butyl 2,2-dimethyl-3-formyl-cyclopropane-carboxylate and 28 g of ethyl phenoxyacetate were added dropwise at 0° C. to a mixture of 0.05 ml of ethanol, 1.25 g of sodium in small pieces and 25 ml of toluene and the solution was stirred at 20° C. for 16 hours. 20 ml of toluene were added thereto and the mixture was stirred for 4 hours and was poured into iced water. The mixture was extracted with methylene chloride and the organic phase was evaporated to dryness under reduced pressure. The residue was chromatographed over silica gel and was eluted with a 7-3 hexane-ethyl acetate mixture to obtain 12.47 g of E or Z isomer of tert.-butyl (1R,trans) 2,2-dimethyl-3-[2-phenoxy-2-ethoxycarbonyl-ethenyl]-cyclopropane-carboxylate.

reactant | tert.-butyl 2,2-dimethyl-3-formyl-cyclopropane-carboxylate | 9.9 g | CC1(C(C1C=O)C(=O)OC(C)(C)C)C | C11H18O3
reactant | ethyl phenoxyacetate | 28 g | O(C1=CC=CC=C1)CC(=O)OCC | C10H12O3
reactant | ethanol | 0.05 ml | C(C)O | C2H6O
reactant | sodium | 1.25 g | [Na] | Na
solvent | water | O | H2O
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | tert.-butyl (1R,trans) 2,2-dimethyl-3-[2-phenoxy-2-ethoxycarbonyl-ethenyl]-cyclopropane-carboxylate | CC1([C@@H]([C@H]1C=C(C(=O)OCC)OC1=CC=CC=C1)C(=O)OC(C)(C)C)C | C21H28O5
